US08212032B2
Step 1: cis-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexanecarboxylic acid
To a flask charged with cis-4-aminocyclohexanecarboxylic acid (4.3 g, 30 mmol, 1.0 equiv), 1,4-dioxane (36 mL) was added. The suspension was cooled to 0° C., and 1.0 N sodium hydroxide (72 mL, 72 mmol, 2.4 equiv) was added over 5 min. The solution was stirred for 20 min at 0° C. A solution of bis(1,1-dimethylethyl) dicarbonate (7.87 g, 36.0 mmol, 1.1 equiv) in 1,4-dioxane (36 ml) was added over 5 min. The reaction was allowed to warm to room temperature and stirring was continued overnight. The reaction was cooled to 0° C. and acidified (to ˜pH 4) with 1.5 M potassium hydrogen sulfate. The desired product was extracted with ethyl acetate (3×), dried with sodium sulfate, filtered and concentrated under reduced pressure to afford 6.55 g (90%) of the title compound. MS (ES+): m/e 265.9 [M+Na]+.

reactant | cis-4-aminocyclohexanecarboxylic acid | 30 mmol, 4.3 g, 1.0 equiv | N[C@H]1CC[C@H](CC1)C(=O)O | C7H13NO2
reactant | sodium hydroxide | 72 mmol, 1.0 N, 72 mL, 2.4 equiv | [OH-].[Na+]
reactant | bis(1,1-dimethylethyl) dicarbonate | 36.0 mmol, 7.87 g, 1.1 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogen sulfate | 1.5 M | S(=O)(=O)(O)[O-].[K+]
solvent | 1,4-dioxane | 36 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 36 mL | O1CCOCC1 | C4H8O2
product | cis-4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)cyclohexanecarboxylic acid | 6.55 g, 90% | CC(C)(C)OC(=O)N[C@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
